US04975438
As in Example 134, a solution of (E)-5,5-bis(4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester (1.73 g) and alpha,alpha-dimethyl-3-pyridinebutanamine (0.9 mL) in tetrahydrofuran (20 mL) was stirred for 20 hours at room temperature and then at reflux for an additional 24 hours to complete the reaction. After the usual work up, the crude amide was crystallized from ethyl acetate-hexane (2x) to furnish 1.55 g of (E)-5,5-bis(4-methoxyphenyl)-N-[1,1-dimethyl-4-(3-pyridinyl)butyl]-2,4-pentadienamide mp 144°-145° C. Anal. Calculated for C30H34N2O3 : C, 76.57; H, 7.28; N, 5.95 Found: C, 76.70; H, 7.48; N, 6.20.

reactant | (E)-5,5-bis(4-methoxyphenyl)-2,4-pentadienoic acid 4-nitrophenyl ester | 1.73 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC)=O | C25H21NO6
reactant | alpha,alpha-dimethyl-3-pyridinebutanamine | 0.9 mL | CC(CCCC=1C=NC=CC1)(N)C | C11H18N2
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | (E)-5,5-bis(4-methoxyphenyl)-N-[1,1-dimethyl-4-(3-pyridinyl)butyl]-2,4-pentadienamide | 1.55 g | COC1=CC=C(C=C1)C(=C/C=C/C(=O)NC(CCCC=1C=NC=CC1)(C)C)C1=CC=C(C=C1)OC | C30H34N2O3
